US04198514
In the same manner as Example 1-(b), 100 g of methyl 3-(2-chlorophenyl)-2-cyanopropionate was reacted with methyl bromoacetate to obtain methyl 4-(2-chlorophenyl)-3-cyano-3-methoxycarbonylbutyrate.

reactant | methyl 3-(2-chlorophenyl)-2-cyanopropionate | 100 g | ClC1=C(C=CC=C1)CC(C(=O)OC)C#N | C11H10ClNO2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | methyl 4-(2-chlorophenyl)-3-cyano-3-methoxycarbonylbutyrate | ClC1=C(C=CC=C1)CC(CC(=O)OC)(C(=O)OC)C#N | C14H14ClNO4
